US07429581B2
(i) 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-2H-pyrazole-3-carboxylic acid
To a solution of 1 g 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid 3-ethyl ester in 15 ml THF 314 mg LiBH4 were added cautiously. Then the reaction mixture was stirred for 16 h, quenched with diluted HCl and filtered through a chem elut® cartridge by elution with ethyl acetate and DCM. After concentration under reduced pressure the crude residue was directly subjected to the next reaction step. Yield: 800 mg.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid 3-ethyl ester | 1 g | C(C)OC(=O)C1=NN(C(=C1)C(=O)O)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H12ClN3O5S
solvent | THF | 15 ml, 314 mg | C1CCOC1 | C4H8O
product | 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-2H-pyrazole-3-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1C(=O)O)CO | C13H10ClN3O4S
